US05350660
A solution of 2-chloro-1-cyclohexyl-2-methyl-1-propanone (30.0 g, 0.16 mole) and sodium p-toluenesulfonate (30.0 g, 0.17 mole) in dimethylsulfoxide was reacted with stirring at 60° C. for 20 hours. The reaction mixture was poured into cold H2O, and stirred at 0°-5° C. for 1 hour. The precipitate was filtered, washed with H2O and dried. The crude solid (18 g) was recrystallized from n-hexane/benzene to give 13.5 g of 2-cyclohexylcarbonyl-2-(p-toluenesulfonyl)propane as white needles.

reactant | 2-chloro-1-cyclohexyl-2-methyl-1-propanone | 0.16 mole, 30.0 g | ClC(C(=O)C1CCCCC1)(C)C | C10H17ClO
reactant | sodium p-toluenesulfonate | 0.17 mole, 30.0 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[Na+]
reactant | H2O | O | H2O
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 2-cyclohexylcarbonyl-2-(p-toluenesulfonyl)propane | 13.5 g | C1(CCCCC1)C(=O)C(C)(C)S(=O)(=O)C1=CC=C(C=C1)C | C17H24O3S
